US07935699B2
In a flask containing N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2(R)-(3-trifluoromethyl-phenyl)-propionamide (66 mg, 0.13 mmol) was added ethanol (3 mL) and concentrated hydrochloric acid (three drops) and was stirred at 25° C. for 2 h. It was then diluted with ethyl acetate (30 mL) and washed with water (1×10 mL) and saturated aqueous brine solution (1×10 mL). The organic layer was then dried over sodium sulfate and absorbed onto silica gel (2 g) and purified on Biotage Flash chromatography system (40S column, silica gel, 80% ethyl acetate/hexanes) afforded 3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-2(R)-(3-trifluoromethyl-phenyl)-propionamide (26 mg, 51%) as a colorless gum: [α]26589=−22.5° (c=0.16, methanol); ES-HRMS m/e calcd for C20H24N3O2F3 (M+H)+ 396.1894, observed 396.1892; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.04-1.20 (m, 2H, CH2), 1.35-1.80 (m, 8H, 4×CH2), 2.07-2.19 (m, 1H, CH), 3.67 (q, J=5.6 Hz, 2H, OCH2), 3.89 (dd, J=9.0, 5.5 Hz, 1H, ArCH), 3.99 (t, J=5.6 Hz, 2H, NCH2), 4.83 (t, J=5.6 Hz, 1H, OH), 6.42 (d, J=2.2 Hz, 1H, Ar), 7.53 (d, J=2.2 Hz, 1H, Ar), 7.54-7.73 (m, 4H, Ar), 10.74 (s, 1H, NH).

reactant | N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2(R)-(3-trifluoromethyl-phenyl)-propionamide | 0.13 mmol, 66 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=CC=C1)C(F)(F)F)=O)(C)C | C26H38F3N3O2Si
reactant | ethanol | 3 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | three drops | Cl | ClH
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-2(R)-(3-trifluoromethyl-phenyl)-propionamide | 26 mg, 51% | C1(CCCC1)C[C@@H](C(=O)NC1=NN(C=C1)CCO)C1=CC(=CC=C1)C(F)(F)F | C20H24F3N3O2
